US07084147B2
3-(5-{4-[4-(3-Fluoro-benzyloxy)-3-chloroanilino]-6-quinazolinyl}-2-furyl)-N-[2-(n-propanesulfonyl)ethyl]-2-propenamide
Prepared according to Procedure I utilizing 3-(5-{4-[4-(3-fluorobenzyloxy)-3-chloroanilino]-6-quinazolinyl}-2-furyl)-2-propenoic acid (0.23 g, 0.42 mmol), carbonyldiimidazole (0.21 g, 1.27 mmol), and n-propanesulfonylethylamine (0.16 g, 0.85 mmol) in DMF to afford the title compound (0.05 g) after purification by chromatography. Electrospray MS m/z 649 (MH+).

reactant | 3-(5-{4-[4-(3-fluorobenzyloxy)-3-chloroanilino]-6-quinazolinyl}-2-furyl)-2-propenoic acid | 0.42 mmol, 0.23 g | FC=1C=C(COC2=C(C=C(NC3=NC=NC4=CC=C(C=C34)C3=CC=C(O3)C=CC(=O)O)C=C2)Cl)C=CC1 | C28H19ClFN3O4
reactant | carbonyldiimidazole | 1.27 mmol, 0.21 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | n-propanesulfonylethylamine | 0.85 mmol, 0.16 g | C(CC)S(=O)(=O)CCN | C5H13NO2S
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(5-{4-[4-(3-Fluoro-benzyloxy)-3-chloroanilino]-6-quinazolinyl}-2-furyl)-N-[2-(n-propanesulfonyl)ethyl]-2-propenamide | 0.05 g | FC=1C=C(COC2=C(C=C(NC3=NC=NC4=CC=C(C=C34)C3=CC=C(O3)C=CC(=O)NCCS(=O)(=O)CCC)C=C2)Cl)C=CC1 | C33H30ClFN4O5S
